US04743601
3-Bromo-7-chloro-N-(2-hydroxypropyl)-4-quinolinamine
A mixture of 12 g of 7-chloro-N-(2-hydroxypropyl)-4-quinolinamine in 112 ml of acetic acid was stirred at room temperature and to it 8 g of bromine was added dropwise over a thirty minute period. After 1.5 hours, a solid formed which was isolated by filtration, dissolved in water and basified with sodium hydroxide, whereupon a solid formed which was collected by filtration. Recrystallization from ethanol yielded 8 g of solid with a melting point of 161°-163° C.

reactant | 7-chloro-N-(2-hydroxypropyl)-4-quinolinamine | 12 g | ClC1=CC=C2C(=CC=NC2=C1)NCC(C)O | C12H13ClN2O
reactant | bromine | 8 g | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 112 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-Bromo-7-chloro-N-(2-hydroxypropyl)-4-quinolinamine | 8 g | BrC=1C=NC2=CC(=CC=C2C1NCC(C)O)Cl | C12H12BrClN2O
